US07329656B2
1-Bromo-3-nitro-2,4,6-trifluorobenzene:
To a cooled (1.3° C.) mixture of 1-bromo-2,4,6-trifluorobenzene (30.0 g, 142 mmol) and H2SO4 (115 mL) was added HNO3 (68%, 102 mL) over 1.5 h at such a rate that the internal temperature was <8° C. After stirring at 0° C. for 2 h, the resulting mixture was poured into ice water (1850 mL), stirred vigorously for 30 min and extracted with CH2Cl2 (3×600 mL). The combined organic layers were washed with water (2×600 mL), dried over MgSO4, filtered and concentrated in vacuo to give the desired product as a clear yellow oil (35.0 g, 99% yield). 1H NMR (CDCl3) δ 7.01 (ddd, J=2.4, 7.8, 9.3 Hz, 1H); 19F NMR (CDCl3) δ −116.20 to −116.10, −107.73 to −107.71, −93.80 to −93.70.

reactant | 1-bromo-2,4,6-trifluorobenzene | 142 mmol, 30.0 g | BrC1=C(C=C(C=C1F)F)F | C6H2BrF3
reactant | H2SO4 | 115 mL | OS(=O)(=O)O | H2O4S
reactant | HNO3 | 102 mL | [N+](=O)(O)[O-] | HNO3
product | 1-Bromo-3-nitro-2,4,6-trifluorobenzene | 35.0 g, 99% yield | BrC1=C(C(=C(C=C1F)F)[N+](=O)[O-])F | C6HBrF3NO2
